US08119795B2
1.5 A solution of 4.5 g of 5-bromo-2,4-dibenzyloxybenzoyl chloride in 6 ml of dichloromethane is added dropwise with ice-cooling to a solution of 1.126 ml of o-toluidine and 1.211 ml of pyridine in 40 ml of dichloromethane. The mixture is stirred at room temperature for a further 16 hours and subjected to conventional work-up, giving 3 g of 5-bromo-2,4-dibenzyloxy-N-o-tolylbenzamide.

reactant | 5-bromo-2,4-dibenzyloxybenzoyl chloride | 4.5 g | BrC=1C(=CC(=C(C(=O)Cl)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H16BrClO3
reactant | o-toluidine | 1.126 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | pyridine | 1.211 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5-bromo-2,4-dibenzyloxy-N-o-tolylbenzamide | 3 g | BrC=1C(=CC(=C(C(=O)NC2=C(C=CC=C2)C)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H24BrNO3
